US05412107
2-(Oxetan-3-oxycarbonyl)phenylsulfonamide:
2.5 g of ammonia are passed into a methylene chloride solution of 2-(oxetan-3-oxycarbonyl)phenylsulfonyl chloride (Example H6) at a temperature of 0° to 5° C. in the course of 45 minutes. By adding water to the reaction mixture, washing the organic phase with water, drying and evaporating it and crystallising the residue from a methylene chloride/diethyl ether mixture, 6.7 g of 2-(oxetan-3-oxycarbonyl)phenylsulfonamide of melting point 169° to 170° C. are obtained.

reactant | ammonia | 2.5 g | N | H3N
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | 2-(oxetan-3-oxycarbonyl)phenylsulfonyl chloride | O1CC(C1)OC(=O)C1=C(C=CC=C1)S(=O)(=O)Cl | C10H9ClO5S
solvent | water | O | H2O
product | 2-(Oxetan-3-oxycarbonyl)phenylsulfonamide | O1CC(C1)OC(=O)C1=C(C=CC=C1)S(=O)(=O)N | C10H11NO5S
